US06218418B1
To a solution of 45.6 mg (0.215 mmol) of diphenylacetic acid in 3 ml of dichloromethane at 0° C. 41.2 mg (0.215 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride were added. After 1 hour at the same temperature under stirring 40 mg (0.179 mmol) of tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate were added. The mixture was maintained at room temperature for 16 hours, then was diluted with dichloromethane and washed with a saturated solution of sodium hydrogenocarbonate. The organic layer was dried over anhydrous sodium sulfate evaporated to dryness, to give, after column chromatography (hexane-ethylacetate) 60 mg (80% yield) of N-(5-cyclopropyl-1-terbutoxycarbonyl-pyrazol-3-yl)-2,2-diphenyl acetamide. This intermediate was submitted to hydrolysis with 15 ml of trifluoroacetic acid 10% v/v in dichloromethane for an hour. The solvent was then evaporated under vacuum. the residue redissolved with dichloromethane and washed with a saturated solution sodium hydrogen carbonate. The organic layer was dried over anhydrous sodium sulfate and evaporated to give 42 mg (92% yield) of the title compound.

reactant | diphenylacetic acid | 0.215 mmol, 45.6 mg | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.215 mmol, 41.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl-3-amino-5-cyclopropyl-1H-pyrazole-1-carboxylate | 0.179 mmol, 40 mg | C(C)(C)(C)OC(=O)N1N=C(C=C1C1CC1)N | C11H17N3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-(5-cyclopropyl-1-terbutoxycarbonyl-pyrazol-3-yl)-2,2-diphenyl acetamide | 60 mg, 80% yield | C1(CC1)C1=CC(=NN1C(=O)OC(C)(C)C)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H27N3O3
